US04391821
Following the process of example 9 (a) and reacting 1,2-epoxy-3-(2-methyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-propane with 2-aminopropane, 1-(2-methyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-3-(1-methylethylamino)-2-propanol was obtained as a base (m.p. 79°-81° C.).

reactant | 1,2-epoxy-3-(2-methyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-propane | O1CC1COC1=CC2=C(CCC(O2)C)C=C1 | C13H16O3
reactant | 2-aminopropane | NC(C)C | C3H9N
product | 1-(2-methyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-3-(1-methylethylamino)-2-propanol | CC1OC2=C(CC1)C=CC(=C2)OCC(CNC(C)C)O | C16H25NO3
